US07576122B2
Step B: Decane-4,7-dione
Cool a suspension of 20.42 g N,N′-dimethoxy-N,N′-dimethylsuccinamide from the Step A above in 1 L anhydrous ether in an ice bath under nitrogen. Add 300 mL of 2 M propylmagnesium chloride in ether over 15 minutes with mechanical stir. Continue to stir the reaction mixture in the cooling bath for 2.25 hours. Quench the reaction by adding 30 mL ethanol in 50 mL ether over 30 minutes. Pour the resulting suspension into 1 L ice and water containing 75 mL concentrated HCl. Separate the layers, wash the organic layer with dilute HCl, 5% NaHCO3 and saturated brine. Dry over anhydrous Na2SO4. Evaporate the clear yellowish solution to give the title compound as yellow solid. 1H NMR (CDCl3, 500 MHz) : 2.69 (s, 4H), 2.46 (t, J=7.4 Hz, 4H), 1.60˜1.67 (m, 4H), 0.935 (t, J=7.5 Hz, 6H).

reactant | N,N′-dimethoxy-N,N′-dimethylsuccinamide | 20.42 g | CON(C(CCC(=O)N(C)OC)=O)C | C8H16N2O4
reactant | propylmagnesium chloride | 2 M, 300 mL | C(CC)[Mg]Cl
reactant | ethanol | 30 mL | C(C)O | C2H6O
reactant | water | 75 mL | O | H2O
reactant | ether | 1 L | CCOCC | C4H10O
reactant | ether | 50 mL | CCOCC | C4H10O
product | Decane-4,7-dione | CCCC(CCC(CCC)=O)=O | C10H18O2
